US07160892B2
(E)-3-(3-Fluorophenyl)-2-(6-methoxy-3-pyridyl)-2-propenenitrile
To a suspension of sodium hydride (8.8 g, 0.220 mol) in 1,2-dimethoxyethane (300 mL) was gradually added diethyl cyanomethylphosphonate (19.7 g, 0.122 mol) at room temperature under an atmosphere of nitrogen gas. After stirring for 15 minutes, 5-bromo-2-methoxypyridine (20.0 g, 0.106 mol) and tetrakis(triphenylphosphine)palladium(0) (2.0 g, 1.73 mmol) were sequentially added thereto, and the mixture was heated to 90° C. and stirred for 6 hours. After standing to cool, the reaction mixture was further cooled on ice. 3-Fluorobenzaldehyde (13.7 g, 0.110 mol) was added dropwise thereinto under an atmosphere of nitrogen gas at 1° C. to 4° C. over 1.5 hours, and the mixture was stirred for further 2.5 hours while gradually elevating to room temperature. The reaction mixture was diluted with a saturated aqueous ammonium chloride solution and ethyl acetate, and then the aqueous layer was extracted with ethyl acetate. The combined organic layers were washed with a saturated aqueous ammonium chloride solution twice, dried over anhydrous sodium sulfate and then concentrated. The residue was suspended in methanol, and the resulting solid was collected by filtration and washed with diethyl ether and hexane, to give the title compound (7.80 g, 29%) as a colorless solid.

reactant | sodium hydride | 0.220 mol, 8.8 g | [H-].[Na+]
reactant | diethyl cyanomethylphosphonate | 0.122 mol, 19.7 g | C(#N)CP(OCC)(OCC)=O | C6H12NO3P
reactant | 5-bromo-2-methoxypyridine | 0.106 mol, 20.0 g | BrC=1C=CC(=NC1)OC | C6H6BrNO
reactant | 3-Fluorobenzaldehyde | 0.110 mol, 13.7 g | FC=1C=C(C=O)C=CC1 | C7H5FO
solvent | 1,2-dimethoxyethane | 300 mL | COCCOC | C4H10O2
solvent | ammonium chloride | [Cl-].[NH4+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 1.73 mmol, 2.0 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (E)-3-(3-Fluorophenyl)-2-(6-methoxy-3-pyridyl)-2-propenenitrile | 7.80 g, 29% | FC=1C=C(C=CC1)/C=C(/C#N)\C=1C=NC(=CC1)OC | C15H11FN2O
